US04816474
A mixture of 2,5 g of N-propyl-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine hydrochloride, 7.5 g of sodium carbonate, 11 ml of n-butyl iodide 25 ml of toluene and 25 ml of water is refluxed for 3 days. Removal of solvent from the organic layer affords an oil which is treated with ethanolic hydrochloric acid to afford N-butyl- N-propyl-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine hydrochloride, m.p. 161°-164°.

reactant | N-propyl-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine hydrochloride | 2,5 g | Cl.C(CC)NC1CC2=C(SC1)SC=C2
reactant | sodium carbonate | 7.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | n-butyl iodide | 11 ml | C(CCC)I | C4H9I
reactant | hydrochloric acid | Cl | ClH
solvent | water | 25 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-butyl- N-propyl-5,6-dihydro-4H-thieno[2,3-b]thiopyran-5-amine hydrochloride | Cl.C(CCC)N(C1CC2=C(SC1)SC=C2)CCC | InChI=1S/C14H23NS2.ClH/c1-3-5-8-15(7-4-2)13-10-12-6-9-16-14(12)17-11-13;/h6,9,13H,3-5,7-8,10-11H2,1-2H3;1H
